US08604029B2
Sodium hydride (1.48 g, 55% in mineral oil; 34.1 mmol) was added to a solution of (4-nitro-phenylamino)-acetic acid (2.0 g, 11.4 mmol) in tetrahydrofuran at 0° C. and stirred for 1 h. Trifluoroacetic anhydride (6.9 g, 34.1 mmol) was added at 0° C. and the reaction mixture stirred overnight. Water was added and the mixture acidified with dilute acetic acid to pH ˜6. This was extracted with ethyl acetate, the organic layer then being washed with saturated sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the crude compound. Purification by column chromatography over silica gel (60-120 mesh) using 2% methanol in chloroform as eluent gave [(4-nitro-phenyl)-(2,2,2-trifluoro-acetyl)-amino]-acetic acid (2.1 g, 64%) as a yellow solid.

reactant | Sodium hydride | 34.1 mmol, 1.48 g | [H-].[Na+]
reactant | (4-nitro-phenylamino)-acetic acid | 11.4 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NCC(=O)O | C8H8N2O4
reactant | Trifluoroacetic anhydride | 34.1 mmol, 6.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [(4-nitro-phenyl)-(2,2,2-trifluoro-acetyl)-amino]-acetic acid | 2.1 g, 64% | [N+](=O)([O-])C1=CC=C(C=C1)N(C(C(F)(F)F)=O)CC(=O)O | C10H7F3N2O5
